US08609656B2
(9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purin-6-yl)carbamic acid pentyl ester (Table 1, Compound No. 111)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)-phenyl)urea hydrochloride and pentyl chloroformate by using the same method as in Example 107.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)-phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | pentyl chloroformate | ClC(=O)OCCCCC | C6H11ClO2
product | (9-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)ureido]-phenyl}-9H-purin-6-yl)carbamic acid pentyl ester | C(CCCC)OC(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C25H23ClF3N7O3
